US05202331
A mixture of 4-dimethylamino-2-phenyl-2-(2-pyridyl)-valeronitrile (50.0 g), water (2.74 g) and sulfuric acid (50 ml) was reacted at 100-105° C. for 2 hours. The reaction mixture was then cooled, diluted with cold water (100 ml) and poured into a mixture of methylene chloride (400 ml) and water(500 ml). The aqueous layer was adjusted to pH 12.5 with 24% aqueous sodium hydroxide solution. The organic layer was taken, washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. To this were added isopropyl alcohol (75 ml), acetone (175 ml) and concentrated hydrochloric acid (10.87 g) and the mixture was stirred for 10 minutes. Then, seed crystals (0.05 g) were added and the mixture was further stirred at 25-30° C. for 1 hour and, then, at -5° to -10° C. for another 1 hour. The resulting crystals were recovered by filtration, washed with methylene chloride and dried to give (±)-(2R*,4R*)-4-dimethylamino-2-phenyl-2-(2-pyridyl)valeramide hydrochloride (26.9 g).

reactant | 4-dimethylamino-2-phenyl-2-(2-pyridyl)-valeronitrile | 50.0 g | CN(C(CC(C#N)(C1=NC=CC=C1)C1=CC=CC=C1)C)C | C18H21N3
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 500 ml | O | H2O
solvent | water | 2.74 g | O | H2O
product | (±)-(2R*,4R*)-4-dimethylamino-2-phenyl-2-(2-pyridyl)valeramide hydrochloride | 26.9 g | Cl.CN([C@@H](C[C@](C(=O)N)(C1=NC=CC=C1)C1=CC=CC=C1)C)C | InChI=1S/C18H23N3O.ClH/c1-14(21(2)3)13-18(17(19)22,15-9-5-4-6-10-15)16-11-7-8-12-20-16;/h4-12,14H,13H2,1-3H3,(H2,19,22);1H/t14-,18-;/m1./s1
